US08461328B2
A solution of trans (4-tert-butoxycarbonylamino-cyclohexyloxy)-acetic acid (600 mg, 2.20 mmol) and triethylamine (400 μL, 2.90 mmol) in THF (22 mL) at 0° C. was treated dropwise with ethyl chloroformate (250 μL, 2.60 mmol). After 30 minutes ammonium hydroxide (2.20 mL, 170 mmol) was added dropwise. The golden solution was stirred at ambient temperature for 30 minutes and then concentrated under vacuum. The residue was partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate (2×). The combined organic extracts were washed with 1M HCl, a saturated sodium bicarbonate solution and brine, dried over sodium sulfate and concentrated under vacuum to afford 550 mg (92%) of trans (4-carbamoylmethoxy-cyclohexyl)-carbamic acid tert-butyl ester as a white solid. LCMS (Method Q, ESI): RT=2.82 min, m+H=295.0; 1H NMR (400 MHz, CDCl3) δ: 6.52 (s, 1H), 5.55 (s, 1H), 4.38 (s, 1H), 3.96 (s, 2H), 3.44 (s, 1H), 3.30 (m, 1H), 2.03 (d, 4H), 1.44 (s, 9H), 1.38 (m, 2H), 1.16 (m, 2H).

reactant | trans (4-tert-butoxycarbonylamino-cyclohexyloxy)-acetic acid | 2.20 mmol, 600 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)OCC(=O)O | C13H23NO5
reactant | triethylamine | 2.90 mmol, 400 μL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.60 mmol, 250 μL | ClC(=O)OCC | C3H5ClO2
reactant | ammonium hydroxide | 170 mmol, 2.20 mL | [OH-].[NH4+]
solvent | THF | 22 mL | C1CCOC1 | C4H8O
product | trans (4-carbamoylmethoxy-cyclohexyl)-carbamic acid tert-butyl ester | 550 mg, 92% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)OCC(N)=O)=O | C13H24N2O4
